US04294845
A dispersion of 24.9 g of 5-chloro-2-hydroxy-α-methyl-α-phenyl-benzenemethanol in 250 ml of toluene was added dropwise with stirring to a mixture of 8 g of sodium amide in 100 ml of toluene and the mixture was refluxed for 6 hours and was then cooled to room temperature. 17 g of sodium dichloropropionate were added thereto in small portions and the mixture was refluxed for 6 hours and was then cooled to room temperature. 700 ml of water were added thereto and the mixture was acidified with N hydrochloric acid solution. The mixture was made alkaline again with a saturated sodium bicarbonate solution and the aqueous phase was washed 3 times with 100 ml of ether and was acidified with 2 N hydrochloric acid. The aqueous phase was extracted 3 times with 100 ml of ether and the combined organic phases were washed 3 times with 80 ml of water, dried over magnesium sulfate and evaporated to dryness under reduced pressure to obtain 23 g of 6-chloro-2,4-dimethyl-4-phenyl-[4H]-1,3-benzodioxin-2-carboxylic acid (mixture of two racemates diastereoisomers) melting at 181° C.

reactant | 5-chloro-2-hydroxy-α-methyl-α-phenyl-benzenemethanol | 24.9 g | ClC=1C=CC(=C(C1)C(O)(C1=CC=CC=C1)C)O | C14H13ClO2
reactant | sodium amide | 8 g | [NH2-].[Na+]
reactant | sodium dichloropropionate | 17 g | ClC(C(=O)[O-])(C)Cl.[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 700 ml | O | H2O
product | 6-chloro-2,4-dimethyl-4-phenyl-[4H]-1,3-benzodioxin-2-carboxylic acid | 23 g | ClC1=CC2=C(OC(OC2(C2=CC=CC=C2)C)(C(=O)O)C)C=C1 | C17H15ClO4
